US09056873B2
Step B: 6-((3R,4R)-3-Aminotetrahydro-2H-pyran-4-ylamino)-7-fluoro-4-(isothiazol-5-yl)-1H-pyrrolo[3,4-c]pyridin-3(2H)-one
To a stirred solution of tert-butyl 6-((3R,4R)-3-(tert-butoxycarbonylamino)tetrahydro-2H-pyran-4-ylamino)-7-fluoro-4-(isothiazol-5-yl)-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate (65.8 mg, 0.120 mmol) in MeOH (1.0 mL) was added 4N HCl/dioxane (1.0 mL, 4.00 mmol). The reaction mixture was heated to 60° C. for 1 hour and was subsequently concentrated in vacuo. The residue was triturated with EtOAc and filtered. The filter cake was washed with EtOAc to give a yellow solid, which was suspended into EtOH. The mixture was stirred at 80° C. for 30 minutes and allowed to cool to room temperature. The resulting precipitate was collected by filtration and washed with EtOH to give a hydrochloride salt of the title compound as an off-white solid (26.5 mg, 57%). 1H NMR (500 MHz, DMSO-d6) δ ppm 1.74-1.85 (m, 1H), 2.08-2.23 (m, 1H), 3.56-3.68 (m, 1H), 3.80 (d, J=11.23 Hz, 2H), 3.96-4.11 (m, 2H), 4.29-4.39 (m, 1H), 4.42-4.55 (m, 2H), 7.49 (d, J=5.37 Hz, 1H), 8.08 (br s, 3H), 8.63 (s, 1H), 8.71 (s, 1H), 8.96 (s, 1H). ESI-MS m/z [M+H]+ calc'd for C15H16FN5O2S, 350. found, 350.

reactant | tert-butyl 6-((3R,4R)-3-(tert-butoxycarbonylamino)tetrahydro-2H-pyran-4-ylamino)-7-fluoro-4-(isothiazol-5-yl)-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate | 0.120 mmol, 65.8 mg | C(C)(C)(C)OC(=O)N[C@H]1COCC[C@H]1NC1=C(C2=C(C(=N1)C1=CC=NS1)C(N(C2)C(=O)OC(C)(C)C)=O)F | C25H32FN5O6S
reactant | HCl dioxane | 4.00 mmol, 4N, 1.0 mL | Cl.O1CCOCC1
reactant | EtOH | CCO | C2H6O
solvent | MeOH | 1.0 mL | CO | CH4O
product | 6-((3R,4R)-3-Aminotetrahydro-2H-pyran-4-ylamino)-7-fluoro-4-(isothiazol-5-yl)-1H-pyrrolo[3,4-c]pyridin-3(2H)-one | 26.5 mg, 57% | N[C@H]1COCC[C@H]1NC1=C(C2=C(C(=N1)C1=CC=NS1)C(NC2)=O)F | C15H16FN5O2S
